US05157038
Preparation of 8-benzyl-3-n-heptyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane
The solution of 18.7 g of 8-benzyl-3-n-heptyl-4-hydroxy-4-methyl-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane in 40 ml of benzyl alcohol is heated at 160° C. for 5 hours while the water formed in the reaction is azeotropically distilled off. Thereafter, the mixture is evaporated under reduced pressure. After taking up the residue in chloroform the solution is dried over anhydrous magnesium sulfate, filtered off and evaporated under reduced pressure. The crude product obtained is recrystallized from n-hexane under clarifying by activated carbon to obtain the title compound in 81% yield, m.p.: 47°-48° C.

reactant | 8-benzyl-3-n-heptyl-4-hydroxy-4-methyl-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 18.7 g | C(C1=CC=CC=C1)N1CCC2(C(N(C(O2)=O)CCCCCCC)(C)O)CC1 | C22H34N2O3
reactant | water | O | H2O
solvent | benzyl alcohol | 40 ml | C(C1=CC=CC=C1)O | C7H8O
product | 8-benzyl-3-n-heptyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 81% yield | C(C1=CC=CC=C1)N1CCC2(C(N(C(O2)=O)CCCCCCC)=C)CC1 | C22H32N2O2
